US05104503
2,3-diacetoxybutane
A stream of hydrogen was used to transfer 5.3 mL (4.8 g) of ethyl acetate into the 16-lamp photoreactor. After irradiation for 20 h at 45° C., 1.8 g of the title product were obtained. The product was identified by comparison with the authentic compound made by hydrodimerizing vinyl acetate in the 4-lamp reactor at 25° C. to give 0.9 g of the product (52% yield) after the C--Hα to the --CO2 group.

reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 5.3 mL, 4.8 g | C(C)(=O)OCC | C4H8O2
product | 2,3-diacetoxybutane | 1.8 g | C(C)(=O)OC(C)C(C)OC(C)=O | C8H14O4
